US05091394
4-Sulfamoylbenzoylguanidine
is obtained analogously to the procedure given in Example 1 from pentafluorophenyl 4-sulfamoylbenzoate, prepared from 4-sulfamoylbenzoyl chloride and pentafluorophenol in the presence of 1 mol of pyridine, with guanidine in methanol as reaction medium.

reactant | pentafluorophenyl 4-sulfamoylbenzoate | S(N)(=O)(=O)C1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C13H6F5NO4S
reactant | 4-sulfamoylbenzoyl chloride | S(N)(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C7H6ClNO3S
reactant | pentafluorophenol | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | pyridine | 1 mol | N1=CC=CC=C1 | C5H5N
reactant | guanidine | NC(=N)N | CH5N3
solvent | methanol | CO | CH4O
product | 4-Sulfamoylbenzoylguanidine | S(N)(=O)(=O)C1=CC=C(C(=O)NC(=N)N)C=C1 | C8H10N4O3S
